US06140351
To a suspension of N-(4-chlorophenyl)-2-[((3-(bromomethyl)benzo[b]thien-2-yl)carbonyl)amino]-5-chlorobenzamide (0.075 g, 0.14 mmol) in methylene chloride (1.5 mL) in a pressure vessel was added dimethylamine hydrochloride (0.035 g, 0.43 mmol), followed by Bio-Rad AGI-X8 anion exchange resin (0.55 g, 0.7 mmol equivalents, OH- form). The vessel was sealed and the mixture was stirred at ambient temperature for 3.5 hours. The vessel was opened and the reaction mixture diluted with methylene chloride (25 mL) and acetonitrile (25 mL), filtered and concentrated in vacuo. Purification by flash chromatography on silica gel, followed by crystallization from acetonitrile afforded 0.030 g (43% yield) of N-(4-chlorophenyl)-2-[((3-(dimethylamino)methylbenzo[b]thien-2-yl)carbonyl)amino]-5-chlorobenzamide, as a crystalline solid; NMR (DMSO-d6 /TFA) 13.2 (s, 1), 10.7 (s, 1), 7.3-8.1 (m, 11), 3.9 (s, 2), 2.1 (s, 6) ppm.

reactant | N-(4-chlorophenyl)-2-[((3-(bromomethyl)benzo[b]thien-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.14 mmol, 0.075 g | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C1=C(C2=C(S1)C=CC=C2)CBr)=O | C23H15BrCl2N2O2S
reactant | dimethylamine hydrochloride | 0.43 mmol, 0.035 g | Cl.CNC
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N-(4-chlorophenyl)-2-[((3-(dimethylamino)methylbenzo[b]thien-2-yl)carbonyl)amino]-5-chlorobenzamide | 0.030 g, 43% yield | ClC1=CC=C(C=C1)NC(C1=C(C=CC(=C1)Cl)NC(=O)C1=C(C2=C(S1)C=CC=C2)CN(C)C)=O | C25H21Cl2N3O2S
